US07632791B2
Following the same general procedure of Example 3, 4-methyl-1-methylenespiro[4.6]undecan-2-one (5.29 g, 27.5 mmol) was reacted with 70% 3-chloroperbenzoic acid (13.6 g, 55.0 mmol) in CH2Cl2 (75 mL+150 mL) at room temp. for 4 d, with additional portions of 70% 3-chloroperbenzoic acid (7.00 g, 28.4 mmol) being added after every day. Work-up with aq. 20% NaHSO3 (250 mL) and purification by silica-gel FC (pentane/Et2O, 9:1, Rf=0.19) provided (3R*,11S*)-11-methyl-1-oxadispiro[2.0.6.3]tridecan-13-one (1.01 g, 18%), besides the (3R*,11R*)-diastereomer (Rf=0.14, 820 mg, 14%).

reactant | 4-methyl-1-methylenespiro[4.6]undecan-2-one | 27.5 mmol, 5.29 g | CC1CC(C(C12CCCCCC2)=C)=O | C13H20O
reactant | 3-chloroperbenzoic acid | 55.0 mmol, 13.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 28.4 mmol, 7.00 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | (3R*,11S*)-11-methyl-1-oxadispiro[2.0.6.3]tridecan-13-one | 1.01 g, 18% | C[C@@H]1C2([C@@]3(CO3)C(C1)=O)CCCCCC2 | C13H20O2
